US08202537B2
The Albuterol Resin Complex was prepared by first dissolving 286 g of albuterol sulfate in 8 liters of purified water, and then slowly adding 1837 g of AMBERLITE™ IRP-69 resin with continuous mixing. The dispersion was mixed for 4 hours and upon completion, allowed to settle before decanting the supernatant. The slurring/decanting process was repeated twice with sufficient amounts of purified water. The wet resin complex was then dried in a VWR™ convection oven maintained at 50° C. until moisture content was about 30%. KOLLICOAT™ SR-30D of 640 g was then slowly added to the wet resin complex in a Hobart type mixer (Kitchen Aid) to form a uniform mass. The wet mass was again dried at 50° C. in a VWR™ convection oven to the moisture content around 25%. The semi-dried granules were then milled through a 40 mesh screen using CO-MIL™ brand mill and continued drying under 50° C. until the moisture content was between 4-6%. The dried granules were then milled through a 40 mesh screen using CO-MIL™ brand mill.

reactant | albuterol sulfate | 286 g | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.OS(=O)(=O)O
solvent | water | 8 liters | O | H2O
product | Albuterol | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O | C13H21NO3
